US08217069B2
3-[2-Chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)phenyl]-5-[1-(ethoxycarbonyl-oxy)ethoxycarbonyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of 5-carboxy-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenyl-ethylsulfonyl)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (49 mg), potassium carbonate (17 mg) and potassium iodide (8 mg) in N,N-dimethylformamide (1 mL) was added 1-ethoxycarbonyloxyethyl chloride (0.015 mL), and the mixture was stirred at 60° C. for 2.5 hours. The reaction mixture was diluted with ethyl acetate, and the resulting mixture was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/2) to give the title compound (29 mg).

reactant | 5-carboxy-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenyl-ethylsulfonyl)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 49 mg | C(=O)(O)C1=CC(=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)S(=O)(=O)C(C)(C2=CC=CC=C2)C)OC)Cl)C | C24H22ClN3O6S
reactant | potassium carbonate | 17 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 8 mg | [I-].[K+]
reactant | 1-ethoxycarbonyloxyethyl chloride | 0.015 mL | C(C)OC(=O)OC(C)Cl | C5H9ClO3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-Chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)phenyl]-5-[1-(ethoxycarbonyl-oxy)ethoxycarbonyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 29 mg | ClC1=C(C=C(C(=C1)OC)S(=O)(=O)C(C)(C1=CC=CC=C1)C)N1C(NC=2C1=NC(=CC2C)C(=O)OC(C)OC(=O)OCC)=O | C29H30ClN3O9S
